US08604061B2
To a stirred solution of (E)-(S)-2-amino-4-(3-chloro-phenyl)-but-3-en-1-ol (155 mg) at r.t. in ethanol (5 ml) under an argon atmosphere was added 5% Pt/C (16 mg). The mixture was stirred at r.t. under a hydrogen atmosphere for 20 hrs. The catalyst was filtered off and the filtrate was concentrated to give (S)-2-amino-4-(3-chloro-phenyl)-butan-1-ol (102 mg, 65%) as light yellow oil. MS (ISP): 202.2 ([{37Cl}M+H]+), 200.2 ([{35Cl}M+H]+).

reactant | (E)-(S)-2-amino-4-(3-chloro-phenyl)-but-3-en-1-ol | 155 mg | N[C@H](CO)\C=C\C1=CC(=CC=C1)Cl | C10H12ClNO
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | Pt/C | 16 mg | [Pt] | Pt
product | (S)-2-amino-4-(3-chloro-phenyl)-butan-1-ol | 102 mg, 65% | N[C@H](CO)CCC1=CC(=CC=C1)Cl | C10H14ClNO
